US09398767B2
Step b: synthesis of 5-fluoro-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carboxylic acid
A suspension of 79.7 g (350 mmol) of periodic acid in 640 ml absolute acetonitrile was stirred for 30 min. To this was added 56.6 g (318 mmol) of 5-fluoro-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carbaldehyde at 0° C. and a solution of 1.4 g (6 mmol) of pyridinium chlorochromate in 130 ml dry acetonitrile. The reaction mixture was stirred for 2.5 hours at room temperature. 1600 ml of ethyl acetate was added to the reaction mixture and the separated organic phase was washed consecutively with brine/water(1:1), saturated sodium metabisulfite and brine. Then the organic phase was dried with sodium sulphate, and evaporated under vacuum to give the expected product as a pale yellow solid.

reactant | periodic acid | 350 mmol, 79.7 g | I(=O)(=O)(=O)O | HIO4
reactant | 5-fluoro-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carbaldehyde | 318 mmol, 56.6 g | FC1=C(C(=NN1C)C(F)F)C=O | C6H5F3N2O
reactant | pyridinium chlorochromate | 6 mmol, 1.4 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | ethyl acetate | 1600 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 640 ml | C(C)#N | C2H3N
solvent | acetonitrile | 130 ml | C(C)#N | C2H3N
product | 5-fluoro-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carboxylic acid | FC1=C(C(=NN1C)C(F)F)C(=O)O | C6H5F3N2O2
